US04092412
Ethyl Phosphonoacetate
Into 100 ml. of absolute ethanol was placed 28 g. (0.2 mole) of phosphonoacetic acid. The solution was treated with a stream of dry hydrogen chloride at 0° C. for 45 minutes. After refluxing for 3 hours the solution was allowed to stand overnight at room temperature. Evaporation of the solvent yielded a viscous oil, which was dried in vacuo over P2O5 and NaOH.

reactant | phosphonoacetic acid | 0.2 mole | P(=O)(O)(O)CC(=O)O | C2H5O5P
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | Ethyl Phosphonoacetate | P(=O)(O)(O)CC(=O)OCC | C4H9O5P
